US05304565
2-n-Butyl-6-hydroxy-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone
A solution of 2-n-Butyl-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-6-valeryloxy-4(3H)-quinazolinone (4.03 g) in a mixture of methanol (20 ml), THF (10 ml) and 1N aqueous sodium hydroxide (20 ml) was stirred at room temperature for 1 hour. After addition of 1N hydrochloric acid (25 ml), the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated to dryness. The resulting crystalline product was recrystallized from ethyl acetate-hexane to give colorless crystals (3.13 g, 91%), mp. 157°-159° C.

reactant | 2-n-Butyl-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-6-valeryloxy-4(3H)-quinazolinone | 4.03 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O)OC(CCCC)=O | C33H36N6O4
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 25 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 2-n-Butyl-6-hydroxy-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 3.13 g, 91% | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O)O | C28H28N6O3
